US08242133B2
To a mixture of 0.40 g of 2-(2-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 4 ml of chloroform, 0.53 g of 65% m-chloroperbenzoic acid was added while ice-cooling. The reaction mixture was stirred while ice-cooling for 30 minutes, then stirred at room temperature for three hours, and then stirred while heating at 50° C. for 1.5 hours. To the mixture, 0.53 g of 65% m-chloroperbenzoic acid and 2 ml of chloroform were added and stirred while heating at 60° C. for five hours. The reaction mixture was cooled to room temperature, then diluted with ethyl acetate, and washed with 5% aqueous solution of sodium hydroxide and a saturated sodium chloride solution, sequentially. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give 0.38 g of 2-chloro-4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide (hereinafter, referred to as “active compound 22”).

reactant | 2-(2-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.40 g | ClC1=NC=CC(=C1)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6ClF3N2O
reactant | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
reactant | m-chloroperbenzoic acid | 0.53 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.53 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide | 0.38 g | ClC1=[N+](C=CC(=C1)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)[O-] | C13H6ClF3N2O2
